US07192968B2
(±)-cis-N1,N2-Bis(benzyloxycarbonyl)-4-oxo-1,2-cyclohexanediamine
Dimethylsulfoxide (8.2 ml) was added to a solution of oxalyl chloride (9.9 ml) in dichloromethane (90 ml) at −60° C., and a solution of (1R*,2S*)-N1,N2-bis(benzyloxycarbonyl)-4-hydroxy-1,2-cyclohexanediamine (9.2 g) in tetrahydrofuran (90 ml) was added to the mixture in one portion. After 1 hour, the temperature of the mixture was raised to −40° C., and triethylamine (26 ml) was added in one portion. The mixture was heated to room temperature as it is, and stirred for 3 hours. The reaction mixture was poured into water and extracted with methylene chloride. The resultant organic layer was washed with saturated saline and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:1) to obtain the title compound (8.0 g) as a pale yellow solid.

reactant | Dimethylsulfoxide | 8.2 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 9.9 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1R*,2S*)-N1,N2-bis(benzyloxycarbonyl)-4-hydroxy-1,2-cyclohexanediamine | 9.2 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H](CC(CC1)O)NC(=O)OCC1=CC=CC=C1 | C22H26N2O5
reactant | triethylamine | 26 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (±)-cis-N1,N2-Bis(benzyloxycarbonyl)-4-oxo-1,2-cyclohexanediamine | 8.0 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H](CC(CC1)=O)NC(=O)OCC1=CC=CC=C1 | C22H24N2O5
